US05264543
Synthesis of Polymer from 5-Aminoisophthaloyl Chloride Hydrogen Chloride
To a 500 ml resin kettle with a stainless egg beater type stirrer fitted with a nitrogen inlet and CaSO4 tube outlet was added 200 ml of NMP and 15.6 g of CaCl2. It was warmed with until all of the salt dissolved. The resin kettle was immersed in an ice bath, and was stirred for 30 min in the ice bath to ensure low temperature. To this was added 6.76 g of 5-aminoisophthaloyl chloride and then the ice bath was removed, and stirring was continued for 2 hrs. The solution was poured into water in a blender, and a white opaque precipitate was formed. The precipitate was collected by filtration after the solution was centrifuged at 13,000 rpm for 4 hours. After air drying 6.0 g of the product was obtained. NMR and TGA analysis indicated that NMP was still present. 1H NMR (d-DMF): 8.0,8.5, 8.55, 8.65, 8.95, 11.1. 13C NMR (d-DMF): 122.8, 123.8, 124.3, 124.6, 125.0, 125.6, 125.7, 126.2, 132.8, 136.5, 136.7, 140.9, 166.2, 167.5. GPC molecular weight in DMAc/LiBr/H3PO4 /THF: Mn=46,000, PD=2.53 (against polystyrene standard).

reactant | NMP | 200 ml | CN1CCCC1=O | C5H9NO
reactant | CaCl2 | 15.6 g | [Cl-].[Cl-].[Ca+2]
reactant | 5-aminoisophthaloyl chloride | 6.76 g | NC=1C=C(C=C(C(=O)Cl)C1)C(=O)Cl | C8H5Cl2NO2
solvent | DMAc LiBr H3PO4 THF | CC(=O)N(C)C.[Li+].[Br-].OP(=O)(O)O.C1CCOC1
product | 5-Aminoisophthaloyl Chloride Hydrogen Chloride | Cl.NC=1C=C(C=C(C(=O)Cl)C1)C(=O)Cl | InChI=1S/C8H5Cl2NO2.ClH/c9-7(12)4-1-5(8(10)13)3-6(11)2-4;/h1-3H,11H2;1H
